US04769472
(3-Bromothien-2-yl) (4-methoxyphenyl)methanone hydrazone
A mixture prepared form 18 g of (3-bromothien-2-yl) (4-methoxyphenyl)methanone, 12 ml of hydrazine hydrate (99%) and 120 ml of ethylene glycol was stirred at 120° for 2 hours. Thereafter, the mixture was cooled and diluted with 1000 g of ice water and quickly extracted with ether (3×500 ml). The combined ether solution was washed four times with water to remove unreacted hydrazine and dried over anhydrous magnesium PG,54 sulfate overnight.

reactant | (3-bromothien-2-yl) (4-methoxyphenyl)methanone | 18 g | BrC1=C(SC=C1)C(=O)C1=CC=C(C=C1)OC | C12H9BrO2S
reactant | hydrazine hydrate | 12 ml | O.NN
solvent | ethylene glycol | 120 ml | C(CO)O | C2H6O2
product | (3-Bromothien-2-yl) (4-methoxyphenyl)methanone hydrazone | BrC1=C(SC=C1)C(=NN)C1=CC=C(C=C1)OC | C12H11BrN2OS
